US06617346B1
A reaction mixture of 2-cyanophenol (5 g, 41.55 mmol), cesium carbonate (27.1 g, 83.10 mmol) and 2-iodopropane (7.634 mL, 74.79 mmol) in acetone (80 mL) was heated at 60° C. with vigorous stirring. After 45 min, the gray brown mixture was decanted and the acetone layer was concentrated in vacuo. Water was added to dissolve cesium carbonate, and the product was extracted with diethyl ether (3×200 mL). The organic layers were washed with water, 1 N ammonium hydroxide, brine and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 5% ethyl acetate in hexanes yielded 2-isopropoxy-benzonitrile as a colorless liquid (6.6 g, 99%).

reactant | 2-cyanophenol | 41.55 mmol, 5 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | cesium carbonate | 83.10 mmol, 27.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 74.79 mmol, 7.634 mL | IC(C)C | C3H7I
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 2-isopropoxy-benzonitrile | 6.6 g, 99% | C(C)(C)OC1=C(C#N)C=CC=C1 | C10H11NO
